US05463077
A solution of 0.43 g of 2-(3-indolyl)-2-oxoacetyl chloride in 20 cm3 of dry methylene chloride and then a solution of 0.6 cm3 of triethylamine in 5 cm3 of dry methylene chloride are added successively to a suspension of 0.96 g of (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride in 25 cm3Of dry methylene chloride at room temperature, while stirring. The reaction mixture is stirred at this temperature for 24 hours and then diluted with 200 cm3 of methylene chloride, washed with 100 cm3 of an aqueous 1N sodium hydroxide solution and with 50 cm3 of an aqueous saturated solution of sodium chloride, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed over a Merck silica gel column (particle size 0.04-0.06 mm, diameter 2.5 cm, height 31 cm) by eluting under a pressure of 0.4 bar of nitrogen with a mixture of 1,2-dichloroethane and methanol (70/30 by volume) and collecting fractions of 15 cm3. Fractions 2 to 9 are combined and concentrated to dryness under reduced pressure (2.7 kPa). 1.15 g of (3aS,4S,7aS)-7,7-diphenyl-2-[2-oxo-2-(3-indolyl)acetyl]-4-(2-methoxyphenyl)-perhydroisoindol-4-ol are obtained in the form of an orange foam.

reactant | 2-(3-indolyl)-2-oxoacetyl chloride | 0.43 g | N1C=C(C2=CC=CC=C12)C(C(=O)Cl)=O | C10H6ClNO2
reactant | triethylamine | 0.6 cm3 | C(C)N(CC)CC | C6H15N
reactant | (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride | 0.96 g | Cl.C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CNC[C@H]12)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1
solvent | methylene chloride | 20 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 cm3 | C(Cl)Cl | CH2Cl2
product | (3aS,4S,7aS)-7,7-diphenyl-2-[2-oxo-2-(3-indolyl)acetyl]-4-(2-methoxyphenyl)-perhydroisoindol-4-ol | 1.15 g | C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CN(C[C@H]12)C(C(C1=CNC2=CC=CC=C12)=O)=O)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C37H34N2O4
